US05925661
A) 4-Amino-3-isopropylbenzenesulphonic acid
5.7 ml of H2SO4 are added to 10 ml of water, the mixture is heated to 80° C. and 13.5 g of 2-isopropylaniline are then added. The water is evaporated off by heating under vacuum, and the temperature is then gradually raised over one and a half hours to reach 260° C. After 3 hours with stirring and under vacuum at 260° C., the reaction medium is allowed to return to RT and to atmospheric pressure, and is then heated for 30 minutes in the presence of 15 ml of NaOH and 100 ml of water in order to dissolve the reaction medium. The insoluble matter is filtered off, and the mixture is cooled to 5° C. and then acidified to pH 1 by adding concentrated H2SO4. The precipitate formed is filtered off, washed with 5 ml of cold water and dried to obtain 20 g of the expected product.

reactant | H2SO4 | 5.7 ml | OS(=O)(=O)O | H2O4S
reactant | 2-isopropylaniline | 13.5 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
solvent | water | 10 ml | O | H2O
product | 4-Amino-3-isopropylbenzenesulphonic acid | 20 g | NC1=C(C=C(C=C1)S(=O)(=O)O)C(C)C | C9H13NO3S
